US06992087B2
Preparation of 5-[2-chloro-4-(dimethylamino)phenyl]-3,6-diethyl-N-[(1R,2S)-2-(2-fluoroethoxy)-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-({5-[2-chloro-4-(dimethylamino)phenyl]-3,6-diethylpyrazin-2-yl}amino 2,3-dihydro-1H-inden-2-ol and 1-bromo-2-fluoroethane and making non-critical variations provided the title compound as a light yellow amorphous solid. IR (diffuse reflectance) 2969, 2932, 2907, 2877, 1608, 1563, 1545, 1483, 1447, 1392, 1353, 1207, 1177, 1123, 1042 cm−1; OAMS supporting ions at: ESI+ 483.2; MS (EI) m/z 482 (M+); HRMS (FAB) calcd for C27H32CLFN4O+H1 483.2327, found 483.2324. [α]25D=−79 (c 0.52, methylene chloride); Anal. Calcd for C27H32ClFN4O: C, 67.14; H, 6.68; N, 11.60. Found: C, 67.19; H, 6.90; N, 11.63.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | {5-[2-chloro-4-(dimethylamino)phenyl]-3,6-diethylpyrazin-2-yl}amino 2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)N(C)C)C=1N=C(C(=NC1CC)NC1C(CC2=CC=CC=C12)O)CC | C25H29ClN4O
reactant | 1-bromo-2-fluoroethane | BrCCF | C2H4BrF
product | 5-[2-chloro-4-(dimethylamino)phenyl]-3,6-diethyl-N-[(1R,2S)-2-(2-fluoroethoxy)-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)N(C)C)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCCF)CC | C27H32ClFN4O
